US05663053
2,4,5-Triphenylimidazole (5 g) was added to a suspension of sodium hydride (1.0 g) (50% dispersion in oil, washed with hexane) in dry dimethylformamide (80 ml ) under nitrogen. The reaction was stirred at 45° C. for 1 h, cooled and added, over 1 h to a solution of 1,8-dibromo-octane (30 g) in dry dimethylformamide (100 ml ) under nitrogen. The reaction was stirred at room temperature for 24 h, water was carefully added and the solvent was removed in vacuo. The residue was dissolved in ethyl acetate (500 ml ), washed with water (250ml), 2N aqueous hydrochloric acid (250 ml), saturated sodium chloride solution (250 ml ), dried over anhydrous magnesium sulphate and evaporated to dryness in vacuo. Distillation to remove 1,8-dibromooctane and chromatography on silica gel eluted with dichloromethane gave 1-(8-bromooctyl)-2,4,5-triphenylimidazole (4.1 g, 50%) as an oil; NMR d (CDCl3) 0.9-1.7 (12 H, m, 6×CH2), 3.3 (2H, t, BrCH2), 3.9 (2H, t, N--CH2), 7.1-7.7(15H, m, 3×Ph) ppm.

reactant | 2,4,5-Triphenylimidazole | 5 g | C1(=CC=CC=C1)C=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H16N2
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | 1,8-dibromo-octane | 30 g | BrCCCCCCCCBr | C8H16Br2
reactant | water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(8-bromooctyl)-2,4,5-triphenylimidazole | 4.1 g, 50% | BrCCCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H31BrN2
